US06506772B1
Cyclopentanecarboxylic Acid [5-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-amide
To a solution of 39 mg (0.17 mmol) cyclopentanecarboxylic acid (2,6-diamino-pyridin-4-ylmethyl)-amide in 1.4 ml dioxane was added 40.2 mg (0.187 mmol, 1.1 eq.) o-mesitylenesulfonylhydroxylamine and after 2h 38.6 mg (0.221 mmol, 1.3 eq.) 5-bromo-2-furaldehyde. The mixture was heated to 100° C. for 2.5 h and afterwards 0.17 ml 1N KOH in MeOH was added. Opening of the reaction vessel and stirring of the mixture at room temperature for 16 h preceded the evaporation to dryness. The residue was taken up in 4.5 ml water and the aqueous phase was extracted with dichloromethane. The combined organic layers were dried with MgSO4 and evaporated. Purification of the residue with column chromatography on silica eluting with yielded the 12 mg (21%) of the title compound.

reactant | cyclopentanecarboxylic acid (2,6-diamino-pyridin-4-ylmethyl)-amide | 0.17 mmol, 39 mg | NC1=NC(=CC(=C1)CNC(=O)C1CCCC1)N | C12H18N4O
reactant | o-mesitylenesulfonylhydroxylamine | 0.187 mmol, 40.2 mg, 1.1 eq. | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | 5-bromo-2-furaldehyde | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | KOH | 1N, 0.17 ml | [OH-].[K+]
solvent | dioxane | 1.4 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | Cyclopentanecarboxylic Acid [5-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylmethyl]-amide | 12 mg, 21% | NC1=CC(=CC=2N1N=C(N2)C=2OC(=CC2)Br)CNC(=O)C2CCCC2 | C17H18BrN5O2
